US04094906
A suspension of 9.3 g. (0.044 mole) (2,4,6-trichlorophenyl)hydrazine in 200 ml. benzene was stirred continuously while 6.3 g. (0.040 mole) butyric anhydride was added dropwise. After the butyric anhydride had all been added, the reaction mixture was heated at the reflux temperature for 2 hrs. After cooling, the reaction mixture was washed with two 40-ml. portions of water, two 40-ml. portions of 1 N sodium hydroxide, and finally with two more 40-ml. portions of water. The washed benzene solution was dried over anhydrous magnesium sulfate, and the benzene was removed by evaporation under reduced pressure. The residue thus obtained was recrystallized three times from hexane to give 8.0 g. (65% yield) of butyric acid (2,4,6-trichlorophenyl)hydrazide having a melting point of 101.5° to 102.5° C.

reactant | (2,4,6-trichlorophenyl)hydrazine | 0.044 mole | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
reactant | butyric anhydride | 0.040 mole | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | butyric acid (2,4,6-trichlorophenyl)hydrazide | 65% yield | ClC1=C(C(=CC(=C1)Cl)Cl)N(N)C(CCC)=O | C10H11Cl3N2O
